US05935972
1-(7-Methyl-benzofuran-5-yl)-1H-tetrazole
A mixture of 5-amino-7-methyl-benzofuran (350 mg) and triethylorthoformate (0.42 ml) in glacial acetic acid (10 ml) was heated at 80° for 1 hour. Sodium azide (470 mg) was added and stirring continued at 80° C. for 4 hours. The mixture was partitioned between ethyl acetate (25 ml) and 8% sodium bicarbonate solution (40 ml), the aqueous was further extracted with ethyl acetate (2×25 ml). The combined organic extracts were washed with hydrochloric acid (2M:25 ml), dried (MgSO4), and evaporated in vacuo. The residue was purified by FCC eluting (with ether-hexane (3:1) to give the title compound as a white solid (174 mg), m.p. 118°.

reactant | 5-amino-7-methyl-benzofuran | 350 mg | NC=1C=C(C2=C(C=CO2)C1)C | C9H9NO
reactant | triethylorthoformate | 0.42 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | Sodium azide | 470 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-(7-Methyl-benzofuran-5-yl)-1H-tetrazole | 174 mg | CC1=CC(=CC=2C=COC21)N2N=NN=C2 | C10H8N4O
